US06187952B1
3-Chloro-4-fluorobenzoyl chloride is available via a multi-stage synthesis. According to Diep et al., J. Chem. Soc. [1963], 2784-2787, ortho-chlorofluorobenzene is initially reacted with acetyl chloride in the presence of large amounts of aluminum chloride in the presence of carbon disulfide, methylene chloride or tetrachloroethylene, the reaction mixture is decomposed with dilute hydrochloric acid, the organic phase is washed with aqueous sodium hydroxide, then with water, and dried over sodium sulfate, the solvent is evaporated, and the residue is subjected to fractional distillation at reduced pressure. This method gives 3-chloro-4-fluoroacetophenone in a yield of about 80%.

reactant | 3-Chloro-4-fluorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1F | C7H3Cl2FO
reactant | ortho-chlorofluorobenzene | ClC1=C(C=CC=C1)F | C6H4ClF
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrachloroethylene | ClC(=C(Cl)Cl)Cl | C2Cl4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | carbon disulfide | C(=S)=S | CS2
product | 3-chloro-4-fluoroacetophenone | yield of about 80% | CC(=O)C1=CC(=C(C=C1)F)Cl | C8H6ClFO
